US03950353
By the procedure of Example 46, N-(2-pyrimidylmethyl)ethylenediamine is reacted with benzoyl isothiocyanate to give N-benzoyl-N'-[2-(2-pyrimidylmethylamino)-ethyl]thiourea.

reactant | N-(2-pyrimidylmethyl)ethylenediamine | N1=C(N=CC=C1)CNCCN | C7H12N4
reactant | benzoyl isothiocyanate | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
product | N-benzoyl-N'-[2-(2-pyrimidylmethylamino)-ethyl]thiourea | C(C1=CC=CC=C1)(=O)NC(=S)NCCNCC1=NC=CC=N1 | C15H17N5OS
